US05234938
7.0 Grams of 2-fluoro-4-nitrophenol was dissolved in 70 ml of N,N-dimethylformamide, and 1.0 g of potassium hydroxide was added thereto. Tetrafluoroethylene was blown into the resulting solution at an inner temperature of 100° C., after which stirring was continued for 6 hours at an inner temperature of 100° C. The reaction solution was poured into ice water and extracted with ether. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue obtained was subjected to column chromatography on silica gel with toluene as an eluent to obtain 6.97 g of 3-fluoro-4-(1',1',2',2'-tetrafluoroethoxy)nitrobenzene. 1H-NMR (CDCl3): δ(ppm) 7.10-8.2(3H), 5.59(1H, tt, J=53, 3 Hz)

reactant | 2-fluoro-4-nitrophenol | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | Tetrafluoroethylene | FC(=C(F)F)F | C2F4
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-(1',1',2',2'-tetrafluoroethoxy)nitrobenzene | 6.97 g | FC=1C=C(C=CC1OC(C(F)F)(F)F)[N+](=O)[O-] | C8H4F5NO3
